US04080451
A solution of methyl isothiocyanate (3.52 g.) in dry tetrahydrofuran (20 ml.) was added during the course of 30 minutes to a suspension of ethoxycarbonylmethoxyacetohydrazide (8.50 g.) in absolute alcohol (50 ml.), and the resulting mixture was stirred for a further period of two hours. The solution was then filtered and the clear filtrate evaporated in vacuo. Trituration of the residue with dry diethyl ether then gave the compound CH3NHCSNHNHCOCH2OCH2COOEt as a white solid material (yield, 8.0 g.).

reactant | methyl isothiocyanate | 3.52 g | CN=C=S | C2H3NS
reactant | ethoxycarbonylmethoxyacetohydrazide | 8.50 g | C(C)OC(=O)COCC(=O)NN | C6H12N2O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | CH3NHCSNHNHCOCH2OCH2COOEt | CNC(=S)NNC(=O)COCC(=O)OCC | C8H15N3O4S
